US05420151
g) (R)-8-Fluoro-3-(N-3-pentyl-N-n-propylamino)-5-trifluoromethanesulfonyloxychroman hydrochloride
(R)-8-Fluoro-3-(N-3-pentyl-N-n-propylamino)-5-trifluoromethanesulfonyloxychroman (100 mg, 0.23 mmol) was dissolved in ether. HCl in ether was added to precipitate the HCl-salt, and gave after drying 110 mg of (R)-8-fluoro-3-(N-3-pentyl-N-n-propylamino)-5-trifluoromethanesulfonyloxychroman hydrochloride as a white powder. Mp. 45°-60° C. (sinters).

reactant | (R)-8-Fluoro-3-(N-3-pentyl-N-n-propylamino)-5-trifluoromethanesulfonyloxychroman | 0.23 mmol, 100 mg | FC=1C=CC(=C2C[C@H](COC12)N(CCC)C(CC)CC)OS(=O)(=O)C(F)(F)F | C18H25F4NO4S
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | (R)-8-Fluoro-3-(N-3-pentyl-N-n-propylamino)-5-trifluoromethanesulfonyloxychroman hydrochloride | Cl.FC=1C=CC(=C2C[C@H](COC12)N(CCC)C(CC)CC)OS(=O)(=O)C(F)(F)F | InChI=1S/C18H25F4NO4S.ClH/c1-4-9-23(12(5-2)6-3)13-10-14-16(27-28(24,25)18(20,21)22)8-7-15(19)17(14)26-11-13;/h7-8,12-13H,4-6,9-11H2,1-3H3;1H/t13-;/m1./s1
